US05210239
5-Bromo-2,4-diethoxy-6-methyl-1-methoxymethyloxybenzene
54 g of 5-bromo-2,4-diethoxy-3-methoxy-6-methylphenol prepared in Referential Example 7 was dissolved in 250 ml of DMF, and 8.5 g of sodium hydride (55% oil suspension) was added thereto and cooled by ice while stirring. The mixture was stirred at room temperature for 30 min and cooled again with ice, and 17.1 g of methoxymethyl chloride was dropwise added thereto. After the completion of the dropwise addition, the mixture was further stirred at room temperature for 30 min. Ice water was added thereto, and the mixture was extracted with ethyl acetate. The organic phase was washed with water, dried over anhydrous magnesium sulfate, concentrated and purified by silica gel column chromatography (eluent; n-hexane : ethyl acetate=95 : 5) to prepare 43.6 g of the product compound as a colorless oleaginous substance.

reactant | 5-bromo-2,4-diethoxy-3-methoxy-6-methylphenol | 54 g | BrC=1C(=C(C(=C(C1C)O)OCC)OC)OCC | C12H17BrO4
reactant | sodium hydride | 8.5 g | [H-].[Na+]
reactant | methoxymethyl chloride | 17.1 g | COCCl | C2H5ClO
solvent | DMF | 250 ml | CN(C)C=O | C3H7NO
product | 5-Bromo-2,4-diethoxy-6-methyl-1-methoxymethyloxybenzene | BrC=1C(=CC(=C(C1C)OCOC)OCC)OCC | C13H19BrO4
